US06878700B1
(2-Methylphenyl)[2-trifluoromethyl-4-(E-((cyclopropylamino)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-methylthiophenol, 2-chlorobenzaldehyde with 4-fluoro-3-trifluoromethyl benzaldehyde, and 6-amino-1-hexanol with cyclopropylamine. 1H NMR (CDCl3, 300 MHz) δ 7.76 (s, 1H); 7.56 (d, J=15.4 Hz, 1H); 7.50 (d, J=8.4 Hz, 1H); 7.40-7.30 (m, 3H); 7.28 (m, 1H); 6.88 (d, J=8.4 Hz, 1H); 6.30 (d, J=15.4 Hz, 1H); 5.70 (br s, 1H), 2.95 (m, 1H); 2.34 (s, 3H); 0.85 (m, 2H); 0.57 (m, 2H). MS (ESI) m/z 777 (2M+Na)+, 755 (2M+H)+, 400 (M+Na)+, 378 (M+H)+.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-methylthiophenol | CC1=C(C=CC=C1)S | C7H8S
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-fluoro-3-trifluoromethyl benzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2-Methylphenyl)[2-trifluoromethyl-4-(E-((cyclopropylamino)carbonyl)ethenyl)phenyl]sulfide | CC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)NC1CC1)C(F)(F)F | C20H18F3NOS
